US09029374B2
5-chloro-2-methylaniline (0.098 mL, 0.82 mmol) was reacted with 8-(1-bromoethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide hydrobromide (100 mg, 0.20 mmol) using an analogous procedure to the one described in Example 3.03 to give 8-(1-(5-chloro-2-methylphenylamino)ethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide (56 mg, 58%) as a white solid. Mass Spectrum: M+H+ 470. NMR Spectrum (DMSOd6): 1.61 (d, 3H), 2.21 (s, 3H), 2.71 (bs, 3H), 2.93 (bs, 3H), 3.52-3.65 (m, 4H), 3.70-3.80 (m, 4H), 5.03-5.11 (m, 1H), 5.55 (d, 1H), 5.62 (s, 1H), 6.19 (d, 1H), 6.49 (dd, 1H), 6.97 (d, 1H), 7.62 (d, 1H), 7.79 (d, 1H).

reactant | 5-chloro-2-methylaniline | 0.82 mmol, 0.098 mL | ClC=1C=CC(=C(N)C1)C | C7H8ClN
reactant | 8-(1-bromoethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide hydrobromide | 0.20 mmol, 100 mg | Br.BrC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N(C)C
product | 8-(1-(5-chloro-2-methylphenylamino)ethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide | 56 mg, 58% | ClC=1C=CC(=C(C1)NC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N(C)C)C | C25H28ClN3O4
